US08981147B2
bis[4-(pyrrolidin-1-yl)phenyl]phosphine oxide
Under a nitrogen stream, a solution of magnesium (9.7 g, 1.0 equivalent), a small amount of iodine and a small amount of 1,2-dibromoethane in tetrahydrofuran (60 mL) was stirred at room temperature for 30 min. A solution of N-(4-bromophenyl)pyrrolidine (90.5 g, 0.400 moL) synthesized in Reference Example 5 in tetrahydrofuran (200 mL) was added at 20° C. to 40° C. over 1 hr, and the mixture was stirred at 40° C. for 40 min. Then, a solution of diethyl phosphite (16.80 g, 0.30 equivalent) in tetrahydrofuran (40 mL) was added to the mixture at 20° C. to 30° C. over 15 min. 6M Hydrochloric acid (60 mL) and water (60 mL) were added to the mixture at −15° C. to 10° C., and then ethyl acetate (200 mL) and acetone (100 mL) were added thereto. The mixture was partitioned, and the organic layer was washed twice with saturated brine (60 mL), dried over anhydrous magnesium sulfate and filtered naturally. Then, the organic layer was concentrated under reduced pressure. The residue was recrystallized from ethyl acetate to give the title compound (2.91 g, pale-yellow white crystals). yield 7%. melting point 199.0° C.

reactant | magnesium | 9.7 g, 1.0 equivalent | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | N-(4-bromophenyl)pyrrolidine | 90.5 g | BrC1=CC=C(C=C1)N1CCCC1 | C10H12BrN
reactant | diethyl phosphite | 16.80 g, 0.30 equivalent | P(OCC)(OCC)[O-]
reactant | Hydrochloric acid | 6M, 60 mL | Cl | ClH
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 60 mL | O | H2O
product | bis[4-(pyrrolidin-1-yl)phenyl]phosphine oxide | 2.91 g, yield 7% | N1(CCCC1)C1=CC=C(C=C1)P(C1=CC=C(C=C1)N1CCCC1)=O | C20H25N2OP
